US09024027B2
A mixture of 2-(6-(trifluoromethyl)-1H-indol-1-yl)acetic acid (90 mg, 0.370 mmol), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (130 mg, 0.308 mmol), EDC (83 mg, 0.432 mmol) and DMAP (75 mg, 0.617 mmol) in dry DCM (5 ml) was stirred at room temperature overnight. Aqueous 1N HCl was added to the reaction mixture and the organic phase was separated, washed with brine and dried over sodium sulfate. The solvent was removed under vacuum, and the crude was purified by flash chromatography on silica gel column (DCM/MeOH 96/4) to give (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-(trifluoromethyl)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide (95 mg, 0.147 mmol, 48% yield). MS/ESI+ 645.03 [MH]+; [αD]=−2.157, c=0.510; DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.45 (s, 2H), 7.67-7.85 (m, 2H), 7.51 (d, 1H), 7.32 (dd, 1H), 7.12 (d, 1H), 6.97 (d, 1H), 6.87 (dd, 1H), 7.03 (t, 1H), 6.61 (dd, 1H), 5.98 (dd, 1H), 5.38 (d, 1H), 5.25 (d, 1H), 3.82 (d, 2H), 3.39 (dd, 1H), 3.19 (dd, 1H), 1.10-1.22 (m, 1H), 0.46-0.70 (m, 2H), 0.15-0.46 (m, 2H)

reactant | 2-(6-(trifluoromethyl)-1H-indol-1-yl)acetic acid | 0.370 mmol, 90 mg | FC(C1=CC=C2C=CN(C2=C1)CC(=O)O)(F)F | C11H8F3NO2
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.308 mmol, 130 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.432 mmol, 83 mg
reactant | HCl | 1N | Cl | ClH
catalyst | DMAP | 0.617 mmol, 75 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-(trifluoromethyl)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.147 mmol, 95 mg, 48% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C=CC2=CC=C(C=C12)C(F)(F)F)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H23Cl2F5N2O5
